2159-04-03 10:48:00 Physician Attending Progress Note
Chief Complaint: pyelonephritis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   50 yo woman with metastatic NSCLC. Developed LE weakness in [**1-29**] with
   dx of leptomeningeal spread. Has recently completed course of XRT to
   skull and to pelvis.  Admitted [**4-2**] with fever, tachycardia hypotension
   and pos u/a in setting of chronic indwelling  foley.
   24 Hour Events:
   CTA/torso--sig sacral decub with air tracking, neg PE, kidney stranding
   s/o pyelo l
   Surgery c/s in ed
   Received 3 L NS IVF
   Transfused 1 unit PRBC w/ approp bump
   History obtained from Patient, HO
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash; pruritus;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2159-4-3**] 06:00 AM
   Vancomycin - [**2159-4-3**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2159-4-3**] 01:00 AM
   Heparin Sodium (Prophylaxis) - [**2159-4-3**] 08:00 AM
   Hydromorphone (Dilaudid) - [**2159-4-3**] 08:30 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-4-3**] 10:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4+
C (99.3
   Tcurrent: 36.6
C (97.8
   HR: 109 (107 - 130) bpm
   BP: 97/71(76) {92/43(54) - 123/76(93)} mmHg
   RR: 15 (13 - 22) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                  3,327 mL
                                                                    692 mL
   PO:
           TF:
   IVF:
                                                                  3,327 mL
                                                                    413 mL
   Blood products:
   279 mL
   Total out:
                                                                    885 mL
                                                                  1,450 mL
   Urine:
                                                                    885 mL
                                                                  1,450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,442 mL
                                                                   -758 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress, Thin, frail appearing F
   Eyes / Conjunctiva: PERRL, dry mm
   Head, Ears, Nose, Throat: No(t) Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), tachy
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: bases)
   Abdominal: Soft, Bowel sounds present, No(t) Distended, No(t) Tender: ,
   L cva tend
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm, superficial ulcerations thigh
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Purposeful, Tone: Not assessed, sacral wound packed
   Labs / Radiology
   9.6 g/dL
   79 K/uL
   62 mg/dL
   0.6 mg/dL
   22 mEq/L
   4.6 mEq/L
   12 mg/dL
   107 mEq/L
   139 mEq/L
   27.9 %
   7.5 K/uL
        [image002.jpg]
                             [**2159-4-2**]  10:20 PM
                             [**2159-4-3**]  03:47 AM
   WBC
   6.1
   7.5
   Hct
   21.0
   27.9
   Plt
   94
   79
   Cr
   0.6
   TropT
   0.04
   Glucose
   62
   Other labs: CK / CKMB / Troponin-T:34/3/0.04, ALT / AST:18/17, Alk Phos
   / T Bili:116/0.2, LDH:149 IU/L, Ca++:6.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.5
   mg/dL
   Fluid analysis / Other labs: u/a pos [**4-2**]
   Imaging: cxr-
   Microbiology: bl, urine cx pending
   Assessment and Plan
   50 yo woman with end-stage metastatic NSCLC. LE weakness with dx of
   leptomeningeal spread. Has recently completed course of XRT to skull
   and to pelvis presented with hypotension, tachycardia and fevers, pos
   u/a and stranding at L kidney on ct.
   Presentation most c/w sepsis from pyelonephritis in pt with
   longstanding indwelling foley.
   Also with sacral wound possibly another infectious source.
   Primary issues include:
   #sepsis
   pyelo appears most  likely etiology
   HD/hypotension improved with IVF now with stable BP and HRs
   continue broad GN coverage pending cx data
   foley changed
   #sacral wound
   Risk for superinfection
   surgery following--> may benefit from debridement/skin flap
   continue vanco empirically pending final blood cx results
   #abd pain--constipation longstanding issue
   bowel reg
   rectal tube given decubitis to avoid stool contamination
   #anemia/thrombocytopenia
   suspect marrow supression from malignancy/xrt
   hct bumped post transfusion
   bleeding and hemolysis less likely
   --check retic count to better assess BM fx
   --follow h/h
   --heme check stool
   --PPI
   Remainder per resident note
   ICU Care
   Nutrition:
   Comments: advance diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2159-4-2**] 07:00 PM
   Comments: may ultimately need midline but access adequate at this time
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code, end of life /goals of care need to be addressed
   given very advanced malignancy
   Disposition :can transfer to floor later today if status remains
   Total time spent: 45 minutes

2159-04-04 11:38:00 Physician Attending Progress Note
Chief Complaint: pyelo/sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   hct drop significant from admit in setting of aggressive fluid
   replacement, transfused 1 unit
   no active bleeding but with heme + stools
   History obtained from Patient, ho
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash; pruritus;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2159-4-4**] 06:47 AM
   Vancomycin - [**2159-4-4**] 08:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2159-4-3**] 04:00 PM
   Hydromorphone (Dilaudid) - [**2159-4-4**] 05:00 AM
   Other medications:
   per [**Month (only) **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-4-4**] 11:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.4
C (97.6
   HR: 92 (92 - 111) bpm
   BP: 88/50(59) {83/38(58) - 117/70(104)} mmHg
   RR: 14 (10 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,249 mL
                                                                    513 mL
   PO:
                                                                    620 mL
             TF:
   IVF:
                                                                  1,350 mL
                                                                    513 mL
   Blood products:
                                                                    279 mL
   Total out:
                                                                  2,270 mL
                                                                  1,020 mL
   Urine:
                                                                  2,270 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -21 mL
                                                                   -507 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   Cacechtic F in NAD
   Clear anteriorly with decreased b/b BS
   Rr
   Soft, nt, + BS
   Without edema, warm, sacral wound dressed
   Labs / Radiology
   7.8 g/dL
   98 K/uL
   76 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.1 mEq/L
   8 mg/dL
   103 mEq/L
   134 mEq/L
   22.9 %
   8.0 K/uL
        [image002.jpg]
                             [**2159-4-2**]  10:20 PM
                             [**2159-4-3**]  03:47 AM
                             [**2159-4-3**]  03:17 PM
                             [**2159-4-4**]  04:40 AM
   WBC
   6.1
   7.5
   8.2
   8.0
   Hct
   21.0
   27.9
   25.5
   22.9
   Plt
   94
   79
   110
   98
   Cr
   0.6
   0.7
   0.8
   TropT
   0.04
   Glucose
   62
   125
   76
   Other labs: CK / CKMB / Troponin-T:34/3/0.04, ALT / AST:18/17, Alk Phos
   / T Bili:116/0.2, LDH:149 IU/L, Ca++:7.4 mg/dL, Mg++:2.2 mg/dL, PO4:2.3
   mg/dL
   Imaging: no new imaging
   Assessment and Plan
 URINARY TRACT INFECTION (UTI)
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 ANEMIA, OTHER
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
   50 yo woman with end-stage metastatic NSCLC. LE weakness with dx of
   leptomeningeal spread. Has recently completed course of XRT to skull
   and to pelvis presented with hypotension, tachycardia and fevers, pos
   u/a and stranding at L kidney on ct.
      Presentation most c/w sepsis from pyelonephritis in pt with
   longstanding indwelling foley.
      Also with significant sacral decubitus ulcer.
   Sepsis has resolved and pt remains hd stable and af.  Urine cx data has
   not been helpful in tapering antbx coverage for pyelonephritis given
   contamination with mixed vag flora. Will repeat cx
s and change zosyn
   to quinolone. As surgery/plastics does not feel sacral wounds are
   actively infected and blood with ngtd, can d/c vanco and continue wound
   care.  Does not appear role for debridement or skin flap.
   Anemia and thrombocytopenic felt [**12-25**] marrow suppression/xrt.  Hct
   pattern has been confusing with what we suspect was initial
   hemoconcentration, dilutional effects post hydration and probable
   spurious bump to 28 post transfusion.  Overall trend shows some
   increase after 1 unit PRBCs. There is no evidence of active bleeding,
   though has trace heme + stool.  Will transfuse 1 additional unit prbc,
   check hemolysis labs, keep t and S active, and continue PPI.
   Remainder as per resident note
   ICU Care
   Nutrition:
   Comments: po diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2159-4-2**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code,
   Disposition :stable for floor transfer pending follow up hct
   Total time spent: 40 minutes